US05677431
(3-Aminophenyl)boronic acid (1.26 grams, 0.01 mole) is dissolved in saturated NaHCO3 (50 ml) by briefly heating the mixture on a hot plate. The solution is cooled in an ice bath to approximately 0° C., and N-methoxycarbonylmaleimide (1.55 grams, 0.01 mole) added with vigorous stirring. After 10 min. the solution is diluted with water (200 ml) and then stirred at room temperature for 30 to 40 min. The pH is adjusted to approximately 5.5 by addition of 1M H2SO4, and the precipitate collected by filtration. The precipitate is washed with 1M H2SO4 (2×50 ml), and then dried overnight in vacuo over NaOH pellets to afford 1.39 grams (64% yield) of (3-maleimidophenyl)boronic acid. The structure was confirmed by 300 MHz, 1H NMR spectrometry in d6 -DMSO.

reactant | (3-Aminophenyl)boronic acid | 0.01 mole, 1.26 grams | NC=1C=C(C=CC1)B(O)O | C6H8BNO2
reactant | N-methoxycarbonylmaleimide | 0.01 mole, 1.55 grams | COC(=O)N1C(C=CC1=O)=O | C6H5NO4
reactant | H2SO4 | 1M | OS(=O)(=O)O | H2O4S
solvent | NaHCO3 | 50 ml | C(=O)(O)[O-].[Na+]
solvent | water | 200 ml | O | H2O
product | (3-maleimidophenyl)boronic acid | 1.39 grams, 64% yield | C1(C=CC(N1C=1C=C(C=CC1)B(O)O)=O)=O | C10H8BNO4
